US06140342
cis-4-{[1-(3,5-Bis-trifluoromethyl-phenyl)-ethyl]-methoxycarbonyl-amino}-6,7-dimethoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester
To a pre-dried flask under nitrogen atmosphere was added cis-4-[(3,5-bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-6,7-dimethoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester (0.200 g, 0.346 mmol) and tetrahydrofuran (2 mL). The solution was cooled to -78° C. and a 1.83 M solution of n-butyl lithiumin hexanes (0.23 g, 0.41 mmol) was added. The reaction was stirred at -78° C. for 45 min, then methyl iodide (0.026 mL, 0.41 mmol) was added and the reaction was warmed to 0° C. and stirred for 90 min. The reaction was quenched with saturated ammonium chloride solution, and the mixture was extracted three times with dichloromethane. The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo to give crude product. Purification by silica gel chromatography using 20% ethyl acetate/hexanes, followed by 70% ether/hexanes as eluent afforded the desired methylated product. MS m/z 593 (M+ +H); 1H NMR (CDCl3) δ 7.85 (bs, 1H), 7.8 (bs, 2H), 7.05 (bs, 1H), 6.5 (bs, 1H), 3.9 (s, 3H), 3.85 (s, 3H), 1.65 (d, 1.5H, J=7 Hz), 1.05 (d, 1.5H, J=7.0 Hz).

reactant | cis-4-[(3,5-bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-6,7-dimethoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 0.346 mmol, 0.200 g | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=C(C=C12)OC)OC)N(C(=O)OC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C26H28F6N2O6
reactant | methyl iodide | 0.41 mmol, 0.026 mL | CI | CH3I
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | cis-4-{[1-(3,5-Bis-trifluoromethyl-phenyl)-ethyl]-methoxycarbonyl-amino}-6,7-dimethoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=C(C=C12)OC)OC)N(C(=O)OC)C(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C27H30F6N2O6
